US03991123
PREPARATION OF 1,3,3-TRIMETHYL-6-(2-CHLOROVINYL)-BICYCLO-(2.2.2)-OCTAN-2-ONE
A mixture of 30 g of triphenylphosphine, 200 ml of anhydrous ether and 11 g of methylene chloride is cooled to -30° and 77 ml of 1.3M n-butyl lithium solution is added over one hour. To the stirred solution is added 11 g of crude 1,3,3-trimethyl-bicyclo-(2.2.2)-octan-2-one-6-carboxaldehyde. The mixture is slowly heated to reflux and held at reflux for 2 hours. The mixture is poured into 100 ml of water and the organic layer is separated and dried over Mg 804 and the solvent is stripped off the product. Structure: ##SPC43##

reactant | triphenylphosphine | 30 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ether | 200 ml | CCOCC | C4H10O
reactant | n-butyl lithium | 1.3M, 77 ml | C(CCC)[Li]
reactant | 1,3,3-trimethyl-bicyclo-(2.2.2)-octan-2-one-6-carboxaldehyde | 11 g | CC12C(C(C(CC1C=O)CC2)(C)C)=O | C12H18O2
reactant | methylene chloride | 11 g | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | 1,3,3-TRIMETHYL-6-(2-CHLOROVINYL)-BICYCLO-(2.2.2)-OCTAN-2-ONE | CC12C(C(C(CC1C=CCl)CC2)(C)C)=O | C13H19ClO
